US07307075B2
4-[2-(4-Butylpiperidin-1-ylmethyl)allyl]-4H-benzo[1,4]oxazin-3-one (123IS02)
3-Chloro-2-chloromethyl-1-propene (0.20 g, 1.5 mmol), 4H-benzo[1,4]oxazin-3-one (0.15 g, 1.0 mmol) and Cs2CO3 (0.65 g, 2.0 mmol) were mixed with 1 mL DMF and were shaken at 65° C. for 5 h. The mixture was diluted with ether (20 mL) and washed with water (20 mL) and the water phase was extracted with ether (20 mL). The combined organic phase was washed with brine (10 mL), dried over Na2SO4, filtered concentrated under reduced pressure and the residue was purified by flash CC (SiO2; heptane/EtOAc 70:30). This product (0.080 g, 0.34 mmol) was dissolved in DMF (1 mL), thereafter 4-butylpiperidine (0.053 g, 0.37 mmol) and Cs2CO3 (0.23 g, 0.71 mmol) were added and the mixture was shaken at 65° C. for 24 h. The mixture was then poured into ether (25 mL) washed with water (10 mL) and the water phase was extracted with ether (20 mL). The combined organic phase was washed with brine (10 mL), dried over Na2SO4, filtered, concentrated under reduced pressure and the residue was purified by cation exchange CC, followed by flash CC (SiO2; EtOAc/MeOH/NH4OH (25% NH3 in water) 97.5:2:0.5), to yield the title compound (0.075 g, 21%). 1H NMR (CDCl3) δ 7.05-2.92 (m, 4H), 5.01 (brs, 1H), 4.82 (brs, 1H), 4.64 (brs 2H), 4.57 (brs, 2H), 2.94 (brs, 2H), 2.86 (brd, J=10.4 Hz, 2H), 1.93-1.82 (m, 2H), 1.71-1.62 (m, 2H), 1.34-1.15 (m, 9H), 0.89 (t, J=6.2 Hz, 3H); 13C NMR (CDCl3) δ 1.64.5, 145.4, 129.2, 123.9, 122.8, 116.9, 113.2, 67.9, 63.2, 54.4, 44.8, 36.6, 36.0, 32.8, 29.3, 23.1, 14.3; HPLC-MS (ammonium acetate) [M+H]+=343.3.

reactant | 3-Chloro-2-chloromethyl-1-propene | 1.5 mmol, 0.20 g | ClCC(=C)CCl | C4H6Cl2
reactant | 4H-benzo[1,4]oxazin-3-one | 1.0 mmol, 0.15 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | Cs2CO3 | 2.0 mmol, 0.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-butylpiperidine | 0.37 mmol, 0.053 g | C(CCC)C1CCNCC1 | C9H19N
reactant | Cs2CO3 | 0.71 mmol, 0.23 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[2-(4-Butylpiperidin-1-ylmethyl)allyl]-4H-benzo[1,4]oxazin-3-one | 0.075 g, 21% | C(CCC)C1CCN(CC1)CC(CN1C(COC2=C1C=CC=C2)=O)=C | C21H30N2O2
